US07691877B2
(2-Amino-3-nitro-6-oxazol-2-yl-pyridin-4-yl)-(3-cyano-benzyl)-carbamic acid ethyl ester
The title compound was prepared following the example in preparation 70, using oxazole (33 mg), (2-amino-6-bromo-3-nitro-pyridin-4-yl)-(3-cyano-benzyl)-carbamic acid ethyl ester (100 mg) and palladium bis(triphenylphosphine)dichloride (33 mg), giving the product (67 mg) as a yellow solid.

reactant | oxazole | 33 mg | O1C=NC=C1 | C3H3NO
reactant | (2-amino-6-bromo-3-nitro-pyridin-4-yl)-(3-cyano-benzyl)-carbamic acid ethyl ester | 100 mg | C(C)OC(N(CC1=CC(=CC=C1)C#N)C1=C(C(=NC(=C1)Br)N)[N+](=O)[O-])=O | C16H14BrN5O4
catalyst | palladium bis(triphenylphosphine)dichloride | 33 mg | [Cl-].[Cl-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd+2]
product | (2-Amino-3-nitro-6-oxazol-2-yl-pyridin-4-yl)-(3-cyano-benzyl)-carbamic acid ethyl ester | C(C)OC(N(CC1=CC(=CC=C1)C#N)C1=C(C(=NC(=C1)C=1OC=CN1)N)[N+](=O)[O-])=O | C19H16N6O5
